US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-yl-ethyl)amide
5-Bromo-1,3-dihydroindol-2-one (0.09 g, 0.4 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide (0.1 g) to give 0.14 g (81%) of the title compound as a yellow-orange solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.4 mmol, 0.09 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide | 0.1 g | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C14H21N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-yl-ethyl)amide | 0.14 g, 81% | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)Br)=O)C | C22H25BrN4O2
